US07202221B2
7-[(2-aminobutyl)amino]-1-methyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
To a solution of 7-chloro-1-methyl-4-oxo-1,4-dihydro-3-quinoline carboxylic acid (1.0 g, prepared according to H. Agui and T. Nakagome, J. Heterocycl. Chem., (1979), 16(7), 1353–60) in 1-methyl-2-pyrrolidinone (10 mL), was added 1,4-diaminobutane (1.84 g). The mixture was heated at 130° C. for 17 hours. The reaction mixture was cooled and poured into DCM (20 mL). The precipitate obtained was dispersed in MeOH and filtered to give the title compound (860 mg).

reactant | 7-chloro-1-methyl-4-oxo-1,4-dihydro-3-quinoline carboxylic acid | 1.0 g | ClC1=CC=C2C(C(=CN(C2=C1)C)C(=O)O)=O | C11H8ClNO3
reactant | 1,4-diaminobutane | 1.84 g | NCCCCN | C4H12N2
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
reactant | 1-methyl-2-pyrrolidinone | 10 mL | CN1C(CCC1)=O | C5H9NO
solvent | MeOH | CO | CH4O
product | 7-[(2-aminobutyl)amino]-1-methyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 860 mg | NC(CNC1=CC=C2C(C(=CN(C2=C1)C)C(=O)O)=O)CC | C15H19N3O3
